US07569578B2
(±)-tert-Butyl 2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-(1-(2-nitrophenyl)-1H-imidazol-2-yl)ethylcarbamate
tert-Butyl-1-(1H-imidazol-2-yl)-2-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)ethylcarbamate (25 mg, 0.53 mmol), 1-fluoro-2-nitrobenzene (14 mg, 0.13 mmol), and potassium carbonate (18.2 mg, 0.13 mmol) were combined in acetonitrile (1.0 mL) and heated via microwave at 125° C. for 30 h. The reaction was concentrated, dissolved in methylene chloride, and washed with water (2×), brine (2×), dried over sodium sulfate, and concentrated. Purification by column chromatography afforded 20.4 mg (65%).

reactant | tert-Butyl-1-(1H-imidazol-2-yl)-2-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)ethylcarbamate | 0.53 mmol, 25 mg | C(C)(C)(C)OC(NC(CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)C=1NC=CN1)=O | C24H37N5O3Si
reactant | 1-fluoro-2-nitrobenzene | 0.13 mmol, 14 mg | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 0.13 mmol, 18.2 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
product | (±)-tert-Butyl 2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-(1-(2-nitrophenyl)-1H-imidazol-2-yl)ethylcarbamate | CC1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)CC(C=1N(C=CN1)C1=C(C=CC=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C30H40N6O5Si
